US06090825
4-(4-ethoxymethyl-5-phenyl-oxazol-2-yl)-1-[2-(4-methoxy-phenyl)-ethyl]-piperidine
1-(2-chloroethyl)-4-methoxybenzene (486 mg, 2.8 mmol), 4-(4-ethoxymethyl-5-phenyl-oxazol-2-yl)-piperidine hydrochloride (1 g, 2.2 mmol), prepared as in Intermediate 4, K2CO3 (393 mg, 2.85 mmol) and Nal (427 mg, 2.85 mmol) in ethanol are mixed together in a sealed tube and heated to 150° C. overnight. The mixture is cooled, filtered and concentrated. The crude material is purified by column chromatography (SiO2, 10% methanol: methylene chloride), followed by another column (SiO2, 15% methanol: ethyl acetate) to afford an oil which is triturated from 70% hexane; ether, 800 mg of the title compound is obtained.

reactant | 1-(2-chloroethyl)-4-methoxybenzene | 2.8 mmol, 486 mg | ClCCC1=CC=C(C=C1)OC | C9H11ClO
reactant | 4-(4-ethoxymethyl-5-phenyl-oxazol-2-yl)-piperidine hydrochloride | 2.2 mmol, 1 g | Cl.C(C)OCC=1N=C(OC1C1=CC=CC=C1)C1CCNCC1
reactant | K2CO3 | 2.85 mmol, 393 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Nal | 2.85 mmol, 427 mg | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
solvent | ethanol | C(C)O | C2H6O
product | 4-(4-ethoxymethyl-5-phenyl-oxazol-2-yl)-1-[2-(4-methoxy-phenyl)-ethyl]-piperidine | 800 mg | C(C)OCC=1N=C(OC1C1=CC=CC=C1)C1CCN(CC1)CCC1=CC=C(C=C1)OC | C26H32N2O3
